US07491732B2
4-Nitrophenol (1.00 g, 7.19 mmol), propargyl bromide (80 wt % in toluene; 0.788 mL, 7.09 mmol), and K2CO3 (1.08 g, 7.84 mmol) were stirred in acetone (16.0 mL) at 60° C. for 18 h. The reaction mixture was cooled to room temperature and diluted with water (200 mL). 4-(prop-2-ynyloxy)nitrobenzene was isolated as a white solid by suction filtration (1.12 g). 1H NMR (CDCl3): δ 8.22 (d, J=9.0 Hz, 2H), 7.05 (d, J=9.0 Hz, 2H), 4.80 (d, J=2.4 Hz, 2H), 2.59 (t, J=2.4 Hz, 1H).

reactant | 4-Nitrophenol | 7.19 mmol, 1.00 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | propargyl bromide | 7.09 mmol, 0.788 mL | C(C#C)Br | C3H3Br
reactant | K2CO3 | 7.84 mmol, 1.08 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 16.0 mL | CC(=O)C | C3H6O
solvent | water | 200 mL | O | H2O
product | 4-(prop-2-ynyloxy)nitrobenzene | C(C#C)OC1=CC=C(C=C1)[N+](=O)[O-] | C9H7NO3
